US05952511
3-(Benzyloxyimino )-7-methylindolin-2-one
To a suspension of 4.91 g of 7-methylisatin in 100 ml of ethanol was added a solution of 5.59 g of O-benzylhydroxylamine hydrochloride and 3.29 g of sodium acetate in 40 ml of water at room temperature. The mixture was stirred at room temperature for 3 hours and concentrated. The concentrate was diluted with chloroform and washed with water. The organic layer was dried over anhydrous sodium sulfate and concentrated. Recrystallization of the crude product from benzene yielded 5.40 g (68%) of the title compound.

reactant | 7-methylisatin | 4.91 g | CC=1C=CC=C2C(C(NC12)=O)=O | C9H7NO2
reactant | O-benzylhydroxylamine hydrochloride | 5.59 g | Cl.C(C1=CC=CC=C1)ON
reactant | sodium acetate | 3.29 g | C(C)(=O)[O-].[Na+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | water | 40 ml | O | H2O
product | 3-(Benzyloxyimino )-7-methylindolin-2-one | 5.40 g, 68% | C(C1=CC=CC=C1)ON=C1C(NC2=C(C=CC=C12)C)=O | C16H14N2O2
